US06489344B1
Benzimidazole (2.4 g, 20 mmol) in dry THF (40 ml) was treated at room temperature with 60% NaH in oil (0.96 g). After hydrogen evolution ceased, 3-bromopropylphthalimide (5.36 g, 20 mmol) was added and the mixture heated at 80° C. overnight. The reaction was cooled, diluted with dichloromethane and water and then extracted twice with 5% aqueous potassium carbonate solution. The organic layer was dried over sodium sulfate and concentrated in vacuo to give a beige solid, 4.1 g. The solid was dissolved in methanol (60 ml) and treated with anhydrous hydrazine (4.0 ml), followed by refluxing for 4 hours. The mixture was then cooled to 4° C. for several hours, then filtered. The filtrate was concentrated in vacuo. The residue was partitioned between dichloromethane and 2.5 M aqueous sodium hydroxide. The organic layer was washed with saturated sodium chloride solution, dried over sodium sulfate and concentrated in vacuo to give 3-benzimidazolylpropyl amine as a pale pink oil, 1.1 g. This amine (1.03 g, 6 mmol) was reacted with benzotriazole carboxamidinium 4-methylbenzenesulfonate (2.0 g, 6 mmol) and DIEA (1.39 ml) in acetonitrile (8 ml) overnight at room temperature to give amino(3-benzimidazolylpropyl)carboxamidinium 4-methylbenzenesulfonate which was obtained as a beige solid after repeated trituration with ether. The guanidine (100 mg) was reacted) (65 hours, 105° C.) with 100 mg of resin in accordance with the method described in Example 10 (i.e., Resin Method C) to give the title compound.

reactant | Benzimidazole | 20 mmol, 2.4 g | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | NaH | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 3-bromopropylphthalimide | 20 mmol, 5.36 g | BrCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C11H10BrNO2
reactant | hydrazine | 4.0 ml | NN | H4N2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | methanol | 60 ml | CO | CH4O
product | 3-benzimidazolylpropyl amine | N1=C(NC2=C1C=CC=C2)CCCN | C10H13N3
